US07960394B2
3-Methyl-2-[2-fluoro-4-(3-pyrrolidin-1-ylpropoxy)phenyl]-4(3H)-quinazolinone
The entitled compound was obtained according to the method of Example 77 but starting from anthranilic acid, methylamine, 2-fluoro-4-methoxybenzaldehyde and 1-(3-bromopropyl)piperidinium bromide.

reactant | anthranilic acid | C(C=1C(N)=CC=CC1)(=O)O | C7H7NO2
reactant | methylamine | CN | CH5N
reactant | 2-fluoro-4-methoxybenzaldehyde | FC1=C(C=O)C=CC(=C1)OC | C8H7FO2
reactant | 1-(3-bromopropyl)piperidinium bromide | [Br-].BrCCC[NH+]1CCCCC1
product | 3-Methyl-2-[2-fluoro-4-(3-pyrrolidin-1-ylpropoxy)phenyl]-4(3H)-quinazolinone | CN1C(=NC2=CC=CC=C2C1=O)C1=C(C=C(C=C1)OCCCN1CCCC1)F | C22H24FN3O2
